US05288707
The desired (+)-pinanediol-(S)-1-chloro-4-methoxy-butane-1-boronate is prepared according to the procedure given in Organometallics 3, 1284 (1984). Therefore methylenechloride (2.2 ml) in THF is cooled to -100° C. and n-butyllithium (13.8 ml 1.6M solution, 22.0 mMol) is added over 20 min. After 15 min at -100° C., a solution of (+)-pinanediol-3-methoxy-propane-1-boronate (5.04 g, 20 mMol) in THF is added followed by anhydrous ZnCl2 (1.42 g, 10.0 mMol). After additional 15 min at -100° C. the reaction mixture is warmed to room temperature and stirred for 2 hr at this temperature. The solvent is removed in vacuo, the residue is diluted with ether and washed with water. The organic layer is dried over Na2SO4 and is concentrated to give an oil which is purified by flash chromatography (9:1 hexane/EtOAc) to give the desired (+)-pinanediol-(S)-1-chloro-4-methoxy-butane-1-boronate as a colourless oil.

reactant | methylenechloride | 2.2 ml | C(Cl)Cl | CH2Cl2
reactant | n-butyllithium | 22.0 mMol, 1.6M, 13.8 ml | C(CCC)[Li]
reactant | (+)-pinanediol 3-methoxy-propane-1-boronate | 20 mMol, 5.04 g | C12(C(CCC(C1(C)C)C2)(C)O)O.COCCCB([O-])[O-]
solvent | THF | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 10.0 mMol, 1.42 g | [Cl-].[Cl-].[Zn+2]
product | (+)-pinanediol (S)-1-chloro-4-methoxy-butane-1-boronate | C12(C(CCC(C1(C)C)C2)(C)O)O.Cl[C@H](CCCOC)B([O-])[O-] | InChI=1S/C10H18O2.C5H10BClO3/c1-8(2)7-4-5-9(3,11)10(8,12)6-7;1-10-4-2-3-5(7)6(8)9/h7,11-12H,4-6H2,1-3H3;5H,2-4H2,1H3/q;-2/t;5-/m.1/s1
